US07749982B2
Creation of Mequitazine/β-cyclodextrin/arginine Complexes
The procedure is identical to that of Example 1, only the quantities of the reagents change. 2.5 grams of mequitazine in racemic or L- or D-form, 20.11 grams of β-cyclodextrin, 1.35 grams of arginine, and 5.63 grams of water are used.

reactant | mequitazine | 2.5 grams | C=1C=CC2=C(C1)N(C=3C=CC=CC3S2)CC45CCN(CC4)CC5 | C20H22N2S
reactant | β-cyclodextrin | 20.11 grams | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | arginine | 1.35 grams | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | water | 5.63 grams | O | H2O
product | Mequitazine β-cyclodextrin arginine | C=1C=CC2=C(C1)N(C=3C=CC=CC3S2)CC45CCN(CC4)CC5.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C42H70O35.C20H22N2S.C6H14N4O2/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;1-3-7-18-16(5-1)22(17-6-2-4-8-19(17)23-18)15-20-9-12-21(13-10-20)14-11-20;7-4(5(11)12)2-1-3-10-6(8)9/h8-63H,1-7H2;1-8H,9-15H2;4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;;4-/m1.0/s1
